US08431604B2
Methyl[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]carbamate
To 360 mg (1.12 mmol) N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride, Example 154 free base, in 13.5 ml THF were added 0.2 ml NMM, and 0.1 ml chloroformic acid methyl ester in 1.5 ml THF were added drop-wise with stirring. Following completion of the reaction, the mixture was concentrated, was diluted with dichloromethane, was washed with saturated NaCl solution, was dried and was concentrated. Chromatography of the crude product on silica gel (dichloromethane/methanol 0-1%) yielded 140 mg; ESI-MS [M+H+]=380.05.

reactant | N-[4-(aminomethyl)-1,3-thiazole-2-yl]-N′-(2,6-dimethoxybenzyl)guanidine hydrochloride | 1.12 mmol, 360 mg | Cl.NCC=1N=C(SC1)NC(=N)NCC1=C(C=CC=C1OC)OC
reactant | NMM | 0.2 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid methyl ester | 0.1 ml | COC(=O)Cl | C2H3ClO2
solvent | THF | 13.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | Methyl[(2-{[[(2,6-dimethoxybenzyl)amino](imino)methyl]amino}-1,3-thiazole-4-yl)methyl]carbamate | COC(NCC=1N=C(SC1)NC(=N)NCC1=C(C=CC=C1OC)OC)=O | C16H21N5O4S
